US08372884B2
Synthesis of ((S)-5-((R)-1-carboxy-2-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)ethylamino)-2-(1,3-dioxoisoindolin-2-yl)-5-oxopentanoic acid) (Compound C-2):
To a solution of S-trans, trans-farnesyl-L-cysteine (325 mg, 1 mmol) and N-phthaloyl-L-glutamic anhydride (259 mg, 1 mmol) in CH2Cl2 (10 mL) was added N,N-diisopropyl-ethyl-amine (0.87 mL, 5 mmol). The solution was stirred at room temperature for 2 h. The reaction was quenched with 1N HCl (10 mL) and the pH was adjusted to 2.0-3.0. The mixtures were extracted with ethyl acetate (15 mL×3). The organic layer was dried over Na2SO4 and concentrated in vacuo and the residue was purified by preparative HPLC (350 mg, 60%) to yield Compound C-2, which is identical to the S-R stereoisomer of the Compound C racemate in Examples 5 and 5a. 1H-NMR (500 MHz, CDCl3): δ 1.50 (s, 3H), 1.52 (s, 3H), 1.55 (s, 3H), 1.60 (s, 3H), 1.86-1.98 (m, 8H), 2.33-2.43 (m, 2H), 2.54-2.57 (m, 2H), 2.78 (dd, J=5.0, 15.0 Hz, 1H), 2.91 (dd, J=5.0, 15.0 Hz, 1H), 3.06 (dd, J=5.0, 10.0 Hz, 1H), 3.14 (dd, J=5.0, 10.0 Hz, 1H), 4.65 (dd, J=5.0, 10.0 Hz, 1H), 4.96 (t, J=5.0 Hz, 1H), 5.00 (m, 2H), 5.11 (t, J=5.0 Hz, 1H), 6.79 (d, J=10.0 Hz, 1H), 7.63-7.65 (m, 2H), 7.74-7.76 (m, 2H), 8.00 (broad, 2H). 13C-NMR (125 MHz, CDCl3): δ 16.06, 16.18, 17.76, 25.19, 25.78, 26.47, 26.73, 29.77, 32.59, 32.79, 39.65, 39.72, 51.10, 51.85, 119.37, 123.76, 123.80, 124.36, 131.39, 131.62, 134.40, 135.36, 140.24, 167.75, 172.78, 173.05, 174.51; ES-MS: mass calcd for Chemical Formula: C31H40N2O7S 584.72. Found (M+) m/z 585.3, (M+Na) m/z 607.3.

reactant | trans-farnesyl-L-cysteine | 1 mmol, 325 mg | CC(=CCC/C(=C/CC/C(=C/CSC[C@@H](C(=O)O)N)/C)/C)C | C18H31NO2S
reactant | N-phthaloyl-L-glutamic anhydride | 1 mmol, 259 mg | C1CC(=O)OC(=O)[C@H]1N2C(=O)C3=CC=CC=C3C2=O | C13H9NO5
reactant | N,N-diisopropyl-ethyl-amine | 5 mmol, 0.87 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-5-((R)-1-carboxy-2-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)ethylamino)-2-(1,3-dioxoisoindolin-2-yl)-5-oxopentanoic acid | C(=O)(O)[C@H](CSC\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)NC(CC[C@@H](C(=O)O)N1C(C2=CC=CC=C2C1=O)=O)=O | C31H40N2O7S
